US07049307B2
To a stirred solution of 2-(2,2-dimethoxyethyl)-6-nitro-2H-indazole (1.89 g, 7.52 mmol) and NH4Cl (337 mg, 6.01 mmol) in ethanol/H2O (2:1, 75 mL) at room temperature was added Fe (1.28 g, 23.7 mmol) and the resulting mixture was heated for 2 hours at 70 C. The mixture was allowed to cool and was filtered through celite. The residue was washed with hot Methanol (5×20 mL) and the combined eluent was concentrated under reduced pressure. The residue was diluted with ethyl acetate (50 mL) and filtered. Concentration of the organic layer under reduced pressure provided 2-(2,2-dimethoxyethyl)-2H-indazol-6-ylamine as an amber oil. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.25 (m, 6 H), 4.34 (d, J=5.43 Hz, 2 H), 4.81 (t, J=5.59 Hz, 1 H), 5.22 (s, 2 H), 6.52 (m, 2 H), 7.37 (m, 1 H) and 8.02 (s, 1 H); MS (ESI) 222 (M+H)+.

reactant | 2-(2,2-dimethoxyethyl)-6-nitro-2H-indazole | 7.52 mmol, 1.89 g | COC(CN1N=C2C=C(C=CC2=C1)[N+](=O)[O-])OC | C11H13N3O4
reactant | NH4Cl | 6.01 mmol, 337 mg | [NH4+].[Cl-]
solvent | ethanol H2O | 75 mL | C(C)O.O
catalyst | Fe | 23.7 mmol, 1.28 g | [Fe] | Fe
product | 2-(2,2-dimethoxyethyl)-2H-indazol-6-ylamine | COC(CN1N=C2C=C(C=CC2=C1)N)OC | C11H15N3O2
